US04101549
5-Allyl-5-(1-ethoxycarbonyl-isopropyl)barbituric acid
Into a one liter three-neck flask equipped with mechanical stirrer, reflux condenser and a dropping funnel, were placed 100 g. of 5-(1-ethoxycarbonylisopropyl)barbituric acid, 100 mg. of calcium sulfate, 50 mg. of copper dust and 500 ml. of water. The mixture was stirred at room temperature for 15 minutes and 53.6 g of allyl bromide were added in one portion followed by the dropwise addition of 125 ml. of 20% sodium hydroxide over 45 minutes at 50°-55°. After stirring at 50°-55° for 3 hours, the reaction mixture was cooled to about 30° and an additional 26.8 g. of allyl bromide were added in one portion. The reaction mixture was heated with stirring, for 90 minutes, and a solution (65-70 ml.) of 20% sodium hydroxide was then added at a rate such that the reaction mixture was always slightly alkaline. The mixture was cooled to room temperature. The pH of the mixture was adjusted to about 9 by the addition of 20% sodium hydroxide and the mixture was extracted with 4 × 250 ml. of ethyl acetate. The combined ethyl acetate extracts were re-extracted with 4 × 300 ml. of 1% sodium hydroxide and the aqueous extracts were added to a mixture of 500 g. of ice and 300 ml. of 6N hydrochloric acid. The precipitate which formed upon standing at room temperature overnight was collected to give 91.0 g. (78%) of the alkylbarbituric acid, m.p. 112°-114°.

reactant | 5-(1-ethoxycarbonylisopropyl)barbituric acid | C(C)OC(=O)C(C)(C)C1C(NC(NC1=O)=O)=O | C10H14N2O5
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | allyl bromide | 53.6 g | C(C=C)Br | C3H5Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 65-70 ml | [OH-].[Na+]
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
product | 5-Allyl-5-(1-ethoxycarbonyl-isopropyl)barbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)C(C)(C)C(=O)OCC | C13H18N2O5
